US08497368B2
To a solution of (6-chloro-imidazo[1,2-b]pyridazin-3-yl)-methanol (1.3 g, 7.1 mmol) in DCM (50 mL) was added active MnO2 (3 g, 34.5 mmol). The mixture was stirred at rt overnight and then filtered. The filtrate was concentrated under vacuum and the residue was washed with EtOAc to afford 6-chloro-imidazo[1,2-b]pyridazine-3-carbaldehyde (0.7 g) in 54% yield. 1H-NMR (400 MHz, CDCl3) δ 10.36 (s, 1H), 8.42 (s, 1H), 8.08 (d, 1H), 7.38 (d, 1H).

reactant | (6-chloro-imidazo[1,2-b]pyridazin-3-yl)-methanol | 7.1 mmol, 1.3 g | ClC=1C=CC=2N(N1)C(=CN2)CO | C7H6ClN3O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 34.5 mmol, 3 g | O=[Mn]=O
product | 6-chloro-imidazo[1,2-b]pyridazine-3-carbaldehyde | 0.7 g, 54% yield | ClC=1C=CC=2N(N1)C(=CN2)C=O | C7H4ClN3O
